US08309720B2
N-(4-Methyl-5-cyano-2-pyrimidinyl)-acetamide
A 250 ml 3-neck flask was equipped with an overhead stirrer, reflux condenser, and a thermocouple. The flask was charged with 2-amino-4-methyl-5-cyanopyrimidine (8.00 g, 59.64 mmol) and an anhydrous NaOAc ((0.035 g, 0.43 mmol) in a mixture of HOAc (16.00 g, 266.43 mmol) and Ac2O (16.00 g, 156.72 mmol). The resultant suspension was stirred and heated to 115° C. to yield a brown suspension, which was stirred at 115° C. for 2 h during which time all starting material dissolved to yield a solution. The resultant mixture was heated at 115° C. for 6.5 hours and then cooled to room temperature to afford a suspension. Toluene (69.70 g) was added to the suspension, and the resultant mixture was then heated to about 108-114° C. to distill about 70 ml of solvent atmospherically (solution was effected at 70° C.). The resultant solution was cooled, fresh toluene (69.70 g) was added, and about 90 ml of solvent was distilled atmospherically at about 110-115° C. The resultant solution was cooled to 90° C., whereupon the mixture began to solidify. Toluene (8.7 g) and heptane (61.2 g) were added and the resultant suspension was stirred and gradually cooled to room temperature. After stirring at room temperature for 1 h, the suspension was filtered and the solid was washed twice with heptane (27.2 g portions) and then dried in a vacuum oven at 70° C. overnight. The title compound—N-(4-Methyl-5-cyano-2-pyrimidinyl)-acetamide—was isolated as a solid.

reactant | 2-amino-4-methyl-5-cyanopyrimidine | 59.64 mmol, 8.00 g | NC1=NC=C(C(=N1)C)C#N | C6H6N4
reactant | NaOAc | CC(=O)[O-].[Na+]
reactant | HOAc | 266.43 mmol, 16.00 g | CC(=O)O | C2H4O2
reactant | Ac2O | 156.72 mmol, 16.00 g | CC(=O)OC(=O)C | C4H6O3
solvent | Toluene | 69.70 g | C1(=CC=CC=C1)C | C7H8
product | N-(4-Methyl-5-cyano-2-pyrimidinyl)-acetamide | CC1=NC(=NC=C1C#N)NC(C)=O | C8H8N4O
